2153-07-01 07:53:00 Physician Attending Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - ERCP: CBD sludge, 2 non-obstr stones at pancreatic head, CBD stent
   placed, no sphincterotomy due to low PLT, elevated coags; recs: repeat
   ERCP in 4 wks w sphincterotomy
   - surgery recs: cholecystectomy, if pt decompensates
   - attempting to wean of norepinephrine gtt, required intermittent NS
   boluses
   - intermittently agitated, pulling lines, good response w haldol
   Allergies:
   Gluten
   h/o celiac dz;
   Wheat Flour
   h/o celiac dz;
   Lactose
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2153-6-30**] 07:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-7-1**] 07:06 AM
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2153-6-30**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-7-1**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 80 (61 - 89) bpm
   BP: 89/60(67) {74/37(53) - 107/77(78)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 12,131 mL
                                                                  2,427 mL
   PO:
             TF:
   IVF:
                                                                  4,651 mL
                                                                  2,427 mL
   Blood products:
                                                                  1,480 mL
   Total out:
                                                                  1,273 mL
                                                                    350 mL
   Urine:
                                                                  1,273 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,858 mL
                                                                  2,077 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: adentulous, dry MM
   Lymphatic: no LAD
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   limited by pt not taking deep breaths
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, mild-mod
   distention, NT to palpation throughout, neg Murphys
   Extremities: Right: 1+, Left: Trace, nonpitting
   Skin:  Warm, Jaundice, r hip dressing c/d/i
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, not clearly following commands
   Labs / Radiology
   9.7 g/dL
   441 K/uL
   89 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.0 mEq/L
   15 mg/dL
   112 mEq/L
   142 mEq/L
   28.7 %
   23.7 K/uL
        [image002.jpg]
                             [**2153-6-30**]  09:47 AM
                             [**2153-6-30**]  04:05 PM
                             [**2153-7-1**]  04:13 AM
   WBC
   22.4
   26.5
   23.7
   Hct
   24.0
   30.3
   28.7
   Plt
   [**Telephone/Fax (3) 6906**]
   Cr
   0.8
   0.8
   0.7
   Glucose
   111
   118
   89
   Other labs:
   PT / PTT / INR:16.2/25.2/1.4,
   ALT / AST:143/89, Alk Phos / T Bili:491/3.0,
   Amylase / Lipase:326/275, D
   ifferential-Neuts:94.2 %, Lymph:2.5 %, Mono:2.6 %, Eos:0.6 %,
   Lactic Acid:3.3 mmol/L, LDH:194 IU/L,
   Ca++:6.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   64M w Down's syndrome, hypothyroidism, s/p recent R THR on home
   coumadin ([**6-20**]), admitted w sepsis.
   .
   # Sepsis: [**2-26**] cholangitis from choledocholithiasis, also possible
   cholecystitis and pancreatitis. Low-grade temps (on steroids),
   leukocytosis, hypotension. s/p ERCP and stenting. Was on vanco and
   zosyn but removed PIVs
   - repeat ERCP in 4 wks and f/u appts
   - change abx to cipro and possible linezolid (will discuss with ERCP
   team)
   - f/u blood cultures, urine culture.
   - IVF boluses to maintain urine output > 30 cc/hr and MAP > 60.
   - off levophed
   - change steroids to prednisone
   - start diet
   - will remove central line
   # Cholangitis/Choledocholithiasis/Cholecystitis/Pancreatitis: Possibly
   [**2-26**] passing a gallstone w temporary obstruction. s/p ERCP [**6-30**]. No acute
   indication for surgical intervention.
   - Broad spectrum abxs as above with vanc/zosyn changing to cipro and
   linezolid (PO meds).
   - start diet
   - f/u blood cultures.
   - Follow LFTs, amylase, lipase
   - GI f/u appt
   - repeat ERCP in one month
   - hold home dose of viokase.
   - pain resolved, will stop meds
   - surgery recs
   # Mental Retardation/Agitation: [**2-26**] Down's syndrome. Non-verbal at
   baseline, becomes easily agitated
   - reorient
   - haldol PRN
   # s/p THR:
   - Restart anticoagulation coumadin
   - restart coumadin
   # Hypothyroidism:
   - Continue levothyroxine.
   ICU Care
   Nutrition: diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-6-30**] 04:15 AM
   Prophylaxis:
   DVT: coagulopathic, start home coumadin dose again
   Stress ulcer: omeprazole
   VAP:
   Comments: bowel regimen
   Communication:  Comments: with pt and sister/guardian [**Name (NI) 143**] [**Name (NI) 6883**]
   [**Telephone/Fax (1) 6884**] and Denene Hurtean (Resident Program Director at [**Location (un) 6885**] NH) [**Telephone/Fax (1) 6886**]. Mieke Monen [**Telephone/Fax (1) 6887**] if cannot get ahold
   of Denene.
   Code status: FULL CODE
   Disposition : Consider transfer back today
   Total time spent:

2153-07-02 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**7-1**]
   -changed steriods to PO
   -started on home coumadin dose
   -started clear diet, [**Doctor First Name **]
   -agitated at staff, given haldol 5mg in AM
   -continuing IV abx for now per surgery
   -attempted to reach family, unable to reach
   -ERCP team signed off
   Allergies:
   Gluten
   h/o celiac dz;
   Wheat Flour
   h/o celiac dz;
   Lactose
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2153-7-1**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-7-2**] 06:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-7-2**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.4
C (95.8
   HR: 68 (60 - 74) bpm
   BP: 147/78(95) {98/59(73) - 147/90(95)} mmHg
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,882 mL
                                                                    158 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  3,282 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    370 mL
   Urine:
                                                                  1,270 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,612 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   542 K/uL
   10.5 g/dL
   72 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.3 mEq/L
   15 mg/dL
   108 mEq/L
   138 mEq/L
   31.5 %
   20.5 K/uL
        [image002.jpg]
                             [**2153-6-30**]  09:47 AM
                             [**2153-6-30**]  04:05 PM
                             [**2153-7-1**]  04:13 AM
                             [**2153-7-2**]  03:53 AM
   WBC
   22.4
   26.5
   23.7
   20.5
   Hct
   24.0
   30.3
   28.7
   31.5
   Plt
   [**Telephone/Fax (3) 6934**]42
   Cr
   0.8
   0.8
   0.7
   0.8
   Glucose
   111
   118
   89
   72
   Other labs: PT / PTT / INR:16.5/24.6/1.5, ALT / AST:122/57, Alk Phos /
   T Bili:439/2.3, Amylase / Lipase:57/46, Differential-Neuts:94.2 %,
   Lymph:2.5 %, Mono:2.6 %, Eos:0.6 %, Lactic Acid:3.3 mmol/L, LDH:216
   IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan (from [**7-1**])
   64M w Down's syndrome, hypothyroidism, s/p recent R THR on home
   coumadin ([**6-20**]), admitted w sepsis.
   .
   # Sepsis: [**2-26**] cholangitis from choledocholithiasis, also possible
   cholecystitis and pancreatitis. Low-grade temps (on steroids),
   leukocytosis, hypotension. s/p ERCP and stenting. Was on vanco and
   zosyn but removed PIVs
   - repeat ERCP in 4 wks and f/u appts
   - change abx to cipro and possible linezolid (will discuss with ERCP
   team)
   - f/u blood cultures, urine culture.
   - IVF boluses to maintain urine output > 30 cc/hr and MAP > 60.
   - off levophed
   - change steroids to prednisone
   - start diet
   - will remove central line
   # Cholangitis/Choledocholithiasis/Cholecystitis/Pancreatitis: Possibly
   [**2-26**] passing a gallstone w temporary obstruction. s/p ERCP [**6-30**]. No acute
   indication for surgical intervention.
   - Broad spectrum abxs as above with vanc/zosyn changing to cipro and
   linezolid (PO meds).
   - start diet
   - f/u blood cultures.
   - Follow LFTs, amylase, lipase
   - GI f/u appt
   - repeat ERCP in one month
   - hold home dose of viokase.
   - pain resolved, will stop meds
   - surgery recs
   # Mental Retardation/Agitation: [**2-26**] Down's syndrome. Non-verbal at
   baseline, becomes easily agitated
   - reorient
   - haldol PRN
   # s/p THR:
   - Restart anticoagulation coumadin
   - restart coumadin
   # Hypothyroidism:
   - Continue levothyroxine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-6-30**] 04:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: